US08895547B2
(6,6-Dimethyl-4,4-dioxo-5-phenyl-5,6-dihydro-4H-4lambda6-[1,4,3]oxathiazin-2-yl)-[(S)-1-(2-fluorophenyl)ethyl]amine
Under inert gas, 48 mg of [5-(3-bromophenyl)-6,6-dimethyl-4,4-dioxo-5,6-dihydro-4H-4lambda6-[1,4,3]oxathiazin-2-yl]-[(S)-1-(2-fluorophenyl)ethyl]amine were initially charged in 5 ml of methanol and, with addition of 22 mg of 10% Pd/C, stirred under a hydrogen atmosphere for 1.75 hours. After filtration to remove the solid residues, the filtrate was freed of the solvent under reduced pressure and the crude product was purified in a purification laboratory by means of preparative HPLC. The product-containing fractions were combined and freed of the organic solvent under reduced pressure, and the aqueous residue was lyophilized. This gave the product (27.8 mg) with a molecular weight of 376.4 g/mol (C19H21FN2O3S); MS (ESI): m/e=377 (M+H+).

reactant | [5-(3-bromophenyl)-6,6-dimethyl-4,4-dioxo-5,6-dihydro-4H-4lambda6-[1,4,3]oxathiazin-2-yl]-[(S)-1-(2-fluorophenyl)ethyl]amine | 48 mg | BrC=1C=C(C=CC1)C1S(N=C(OC1(C)C)N[C@@H](C)C1=C(C=CC=C1)F)(=O)=O | C19H20BrFN2O3S
solvent | methanol | 5 ml | CO | CH4O
catalyst | Pd/C | 22 mg | [Pd] | Pd
product | (6,6-Dimethyl-4,4-dioxo-5-phenyl-5,6-dihydro-4H-4lambda6-[1,4,3]oxathiazin-2-yl)-[(S)-1-(2-fluorophenyl)ethyl]amine | 27.8 mg | CC1(C(S(N=C(O1)N[C@@H](C)C1=C(C=CC=C1)F)(=O)=O)C1=CC=CC=C1)C | C19H21FN2O3S
